US07777047B2
N-methyl-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a suspension of N-methyl-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide dihydrochloride (0.010 g) in ethyl acetate (50 mL) was added 2N aqueous sodium hydroxide solution (20 mL), and the mixture was stirred at room temperature for 15 min. The organic layer was separated, and washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give the title compound (0.004 g, yield 46%) as colorless crystals. melting point 199-201° C.

reactant | N-methyl-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide dihydrochloride | 0.010 g | Cl.Cl.CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1CCOCC1
reactant | sodium hydroxide | 2N, 20 mL | [OH-].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.004 g, yield 46% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1CCOCC1 | C21H24N4O3S3
